US04125732
Methyl(m-dimethylaminophenoxy){p-[2-(p-chlorophenoxy)ethoxy]phenyl}acetate
As described in Example 5, a mixture of 2.74 g of 3-dimethylaminophenol, 0.80 g of 60% sodium hydride-oil dispersion, 3.32 g of potassium iodide, one ml of hexamethylphosphoramide and 8.0 g of methyl bromo{p-[2-(p-chlorophenoxy)ethoxy]phenyl}acetate in 70 ml of tetrahydrofuran is refluxed for 18 hours and worked up to give 8.34 g of a gum. The gum is chromatographed on silica gel with dichloromethane as eluent to give 6.8 g of solid. Trituration with hexane-ether gives 3.50 g of crystals. Recrystallization gives crystals, mp 100°-101° C.

reactant | 3-dimethylaminophenol | 2.74 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | sodium hydride | 0.80 g | [H-].[Na+]
reactant | potassium iodide | 3.32 g | [I-].[K+]
reactant | methyl bromo{p-[2-(p-chlorophenoxy)ethoxy]phenyl}acetate | 8.0 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)Cl | C17H16BrClO4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | one ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl(m-dimethylaminophenoxy){p-[2-(p-chlorophenoxy)ethoxy]phenyl}acetate | 8.34 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)N(C)C)=O | C25H26ClNO5
